US06329400B1
To a solution of (3R,45)-1-(2-tetrahydropyranyloxy)-3-(2-propyne-1-yl)-4-methylazetidin-2-one (1.32 g, 5.83 mmol) in 20 mL of toluene is added tributyltin hydride (1.70 g, 5.83 mmol) and AIBN (30 mg). The resulting solution is heated at reflux for 4 h then concentrated ir vacuo. The reaction mixture is purified by silica gel chromatography (elution with 8:1 hexanes-EtOAc) to provide (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one as an oil (2.6 g, 87% yield).

reactant | (3R,45)-1-(2-tetrahydropyranyloxy)-3-(2-propyne-1-yl)-4-methylazetidin-2-one | 5.83 mmol, 1.32 g | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)CC#C)=O | C12H17NO3
reactant | tributyltin hydride | 5.83 mmol, 1.70 g | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | AIBN | 30 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one | 2.6 g, 87% yield | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\[Sn](CCCC)(CCCC)CCCC)=O | InChI=1S/C12H18NO3.3C4H9.Sn/c1-3-6-10-9(2)13(12(10)14)16-11-7-4-5-8-15-11;3*1-3-4-2;/h1,3,9-11H,4-8H2,2H3;3*1,3-4H2,2H3;/t9-,10+,11?;;;;/m0..../s1
